US04855519
Preparation of p-t-Butylstyrene from Non-treated Fraction
The bromine number of the recovered 1,1-bis(p-t-butylphenyl)ethane was 3.81. According to mass spectrometry, the content of the component of m/e=292 was 7.5%.

reactant | bromine | BrBr | Br2
reactant | 1,1-bis(p-t-butylphenyl)ethane | C(C)(C)(C)C1=CC=C(C=C1)C(C)C1=CC=C(C=C1)C(C)(C)C | C22H30
product | p-t-Butylstyrene | C(C)(C)(C)C1=CC=C(C=C)C=C1 | C12H16
